US06911468B2
(2) Sodium (2R)-2-(4-{5-methyl-1-[3-(4-pentylphenoxy)propyl]-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate
Ethanol (6 ml) and a solution of 1N sodium hydroxide in ethanol (1.10 ml) were added to (2R)-2-(4-{5-methyl-1-[3-(4-pentylphenoxy)propyl]-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoic acid (640 mg, 1.22 mmol) and the mixture was concentrated. To the residue was added diisopropylether to give the object compound as a solid. 499 mg (yield: 82.9%)

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | (2R)-2-(4-{5-methyl-1-[3-(4-pentylphenoxy)propyl]-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoic acid | 1.22 mmol, 640 mg | CC1=CC=C(N1CCCOC1=CC=C(C=C1)CCCCC)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C34H39NO4
solvent | ethanol | 1.10 ml | C(C)O | C2H6O
solvent | Ethanol | 6 ml | C(C)O | C2H6O
product | Sodium (2R)-2-(4-{5-methyl-1-[3-(4-pentylphenoxy)propyl]-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate | yield: 82.9% | CC1=CC=C(N1CCCOC1=CC=C(C=C1)CCCCC)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C34H39NO4.Na/c1-3-4-6-10-27-14-18-30(19-15-27)38-24-9-23-35-26(2)13-22-32(35)29-16-20-31(21-17-29)39-33(34(36)37)25-28-11-7-5-8-12-28;/h5,7-8,11-22,33H,3-4,6,9-10,23-25H2,1-2H3,(H,36,37);/q;+1/p-1/t33-;/m1./s1
